US04137315
N-(2-Hydroxyethyl)ethylenediamine (1.77 g) is added all at once to a solution, stirred and heated to 70° C., of 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (5 g) in dimethylformamide (200 cc). The red solution thus obtained is allowed to return to ambient temperature (about 20° C.) in the course of 2 hours. A suspension of red crystals is thus obtained, to which distilled water (200 cc) is added. The crystals are filtered off and then washed with water (3 × 10 cc). After drying under reduced pressure (1 mm Hg) at 24° C., brick-red crystals of crude 4-[2-(2-hydroxyethylamino)ethylamino]-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (5.08 g) are obtained.

reactant | N-(2-Hydroxyethyl)ethylenediamine | 1.77 g | OCCNCCN | C4H12N2O
reactant | 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 5 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C16H11N3O4
solvent | dimethylformamide | 200 cc | CN(C=O)C | C3H7NO
product | 4-[2-(2-hydroxyethylamino)ethylamino]-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 5.08 g | OCCNCCNC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C18H17N5O4
